US05977170
Methyl 3-benzoylpropionate (50 g, 0.25 mol) in 300 ml of anhydrous THF was added under nitrogen dropwise over one hour to a suspension of LAH in 500 ml of anhydrous THF. After the addition the mixture was refluxed for 20 hours. After cooling to room temperature 14.3 ml of water was added dropwise followed by the addition of 14.3 ml of 15% KOH and then 42.9 ml of water. The mixture was stirred for 30 minutes and then filtered. The filtrate was concentrated under reduced pressure to remove the THF. The residue was partitioned between methylene chloride and 1 N HCl. The organic layer was separated and the aqueous layer extracted three times with methylene chloride. The organic extracts were combined, dried (MgSO4) and the solvent removed under reduced pressure to give 4-phenyl-4-hydroxybutanol (37.90 g, 91%) as a white solid, mp 63-68° C.

reactant | Methyl 3-benzoylpropionate | 0.25 mol, 50 g | C(C1=CC=CC=C1)(=O)CCC(=O)OC | C11H12O3
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 14.3 ml | O | H2O
reactant | KOH | 14.3 ml | [OH-].[K+]
reactant | water | 42.9 ml | O | H2O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | 4-phenyl-4-hydroxybutanol | 37.90 g, 91% | C1(=CC=CC=C1)C(CCCO)O | C10H14O2
